US07875408B2
Synthesis of 2,3-dimesityl-2-butene
1-acetyl-2,4,6-trimethylbenzene (5 mmol, 832 μL) was added to a suspension of Zn (20 mmol, 1.3 g) in tetrahydrofuran (THF, 10 mL) under N2 immersed in an ice bath followed by a toluene solution of TiCl4 (10 mmol, 10 mL of 1M sol.). The reaction mixture was stirred 2 hour at ice-bath temperature and then refluxed for ca. 18 hours. After the reaction mixture had cooled to ambient, 10% aqueous solution of K2CO3 (ca 30 mL) was added and the solution was extracted twice with ether. Combine extract were washed with brine, dried over MgSO4, filtered and evaporated. Chromatography with hexanes on silica gel afforded 250 mg of pure product.

reactant | 1-acetyl-2,4,6-trimethylbenzene | 5 mmol, 832 μL | C(C)(=O)C1=C(C=C(C=C1C)C)C | C11H14O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | K2CO3 | ca 30 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | Zn | 20 mmol, 1.3 g | [Zn] | Zn
catalyst | TiCl4 | 10 mmol, 1M, 10 mL | Cl[Ti](Cl)(Cl)Cl
product | 2,3-dimesityl-2-butene | 250 mg | C1(=C(C(=CC(=C1)C)C)C(C)=C(C)C1=C(C=C(C=C1C)C)C)C | C22H28
